US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(2-naphthalenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0472 g, 0.160 mmol) and 3-bromopropyl 2-naphthalenyl ether (0.0618 g, 0.233 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0567 g, 63.7%). EI-MS m/z 478(M+) Rt (2.22 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.160 mmol, 0.0472 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl 2-naphthalenyl ether | 0.233 mmol, 0.0618 g | C1=C(C=CC2=CC=CC=C12)OCCCBr | C13H13BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(2-naphthalenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0567 g, 63.7% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC1=CC=CC=C1C=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C33H36NO2.BrH/c35-33(29-12-3-1-4-13-29,30-14-5-2-6-15-30)32-18-22-34(23-19-32,24-20-32)21-9-25-36-31-17-16-27-10-7-8-11-28(27)26-31;/h1-8,10-17,26,35H,9,18-25H2;1H/q+1;/p-1
